US07612089B2
A. Preparation of 4-(4-methyl-homopiperazinyl)-2-fluorophenylamine
A mixture of 2-fluoro-4-iodoaniline (474 mg, 2.00 mmol), 1-methylhomopiperazine (0.372 mL, 3.00 mmol), ethylene glycol (0.222 mL, 4.00 mmol) and K3PO4 (848 mg, 4.00 mmol) in isopropanol (2 mL) was degassed with Ar before being charged with CuI (76 mg, 0.40 mmol). The mixture in a sealed tube was heated at 85° C. for three days. One fifth of the reaction mixture was applied to a silica gel prep TLC plate, which was then developed in CH2Cl2/MeOH/NH4OH (85/15/0.5). The area containing the desired product was scraped out, and the product was extracted out with CH2Cl2/MeOH (2/1) to give a solid (54 mg).

reactant | 2-fluoro-4-iodoaniline | 2.00 mmol, 474 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 1-methylhomopiperazine | 3.00 mmol, 0.372 mL | CN1CCNCCC1 | C6H14N2
reactant | ethylene glycol | 4.00 mmol, 0.222 mL | C(CO)O | C2H6O2
reactant | K3PO4 | 4.00 mmol, 848 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
catalyst | CuI | 0.40 mmol, 76 mg | [Cu]I
product | 4-(4-methyl-homopiperazinyl)-2-fluorophenylamine | CN1CCN(CCC1)C1=CC(=C(C=C1)N)F | C12H18FN3
